US07446204B2
Tetramethylammonium triacetoxyborohydride was added to a solution of N-benzylglycine ethyl ester (1.87 mL, 10 mmol), propionaldehyde (1.05 mL, 14 mmol) and acetic acid (0.6 mL) in CH2Cl2 (20 mL), and the resulting mixture was stirred at room temperature for 18 h. The reaction mixture was partitioned between aqueous Na2CO3 (2 M, 100 mL) and CH2Cl2 (3×20 mL) and the combined organic layers were dried over Na2SO4 and concentrated in vacuo to give ethyl 2-[benzylpropylamino]acetate as a yellow oil (2.25 g, 96% yield). LCMS (method B): 1.52 min, 236.0 (M+H)+.

reactant | Tetramethylammonium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.C[N+](C)(C)C
reactant | N-benzylglycine ethyl ester | 10 mmol, 1.87 mL | C(C)OC(CNCC1=CC=CC=C1)=O | C11H15NO2
reactant | propionaldehyde | 14 mmol, 1.05 mL | C(CC)=O | C3H6O
reactant | acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-[benzylpropylamino]acetate | 2.25 g, 96% yield | C(C1=CC=CC=C1)CCCNCC(=O)OCC | C14H21NO2
